US08207352B2
To a solution of racemic 3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile (2.7 g) in acetone (40 ml) a solution of (1R)-10-camphorsulfonic acid (2 g) in methanol (30 ml) was added and the mixture was heated under reflux until a solution was obtained. The solution was slowly cooled to rt, seeded with crystals of the desired enantiomeric salt and let overnight. The solid was collected by filtration, washed with small amount of cold acetone and dried to provide (2S,3R)-3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile-(1R)-10-camphorsulfonate as white solid. This salt was taken up in methylenechloride (20 ml) and water (ca. 30 ml) and the mixture was basified with aqueous sodium hydroxide solution. The organic layer was separated and the aqueous phase washed twice with methylenechloride (50 ml) and combined. The organic phases were then washed with water (2×30 ml), dried with sodium sulfate, filtrated and the solvent removed under reduced pressure. The crude product was then mixed with isopropanol (20 ml), heated for 10 min, cooled to 0° C. and stirred for ca. 2 hrs. The product was collected, washed with aqueous isopropanol and dried under reduced pressure to provide the enantiomerically pure title compound (1.05 g, 38% yield, 99% ee). The analytical data were identical with published: U.S. Pat. No. 6,300,353 and WO 99/45008.

reactant | racemic 3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile | 2.7 g | FC1=C(C=C(C=C1)F)C(C(C#N)C)(CN1N=CN=C1)O | C13H12F2N4O
reactant | (1R)-10-camphorsulfonic acid | 2 g | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | methanol | 30 ml | CO | CH4O
product | (2S,3R)-3-(2,5-difluorophenyl)-3-hydroxy-2-methyl-4-(1H-1,2,4-triazol-1-yl)butanenitrile (1R)-10-camphorsulfonate | FC1=C(C=C(C=C1)F)[C@]([C@H](C#N)C)(CN1N=CN=C1)O.[C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-] | InChI=1S/C13H12F2N4O.C10H16O4S/c1-9(5-16)13(20,6-19-8-17-7-18-19)11-4-10(14)2-3-12(11)15;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h2-4,7-9,20H,6H2,1H3;7H,3-6H2,1-2H3,(H,12,13,14)/p-1/t9-,13+;7?,10-/m00/s1
